US06083955
To a solution of 258 mg of fluoroethanol in 20 ml of dimethylformamide was added 194 mg of sodium hydride (60%) with ice cooling followed by stirring for 30 minutes. To this reaction solution was added 400 mg of N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide with stirring under ice cooling followed by stirring for 30 minutes. The reaction mixture was stirred at room temperature for two hours and poured into a mixture of 1N hydrochloric acid and ice. This solution was extracted with chloroform and the chloroform layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo and the resulting residue was purified by a silica gel column chromatography (chloroform-methanol=40:1). The resulting amorphous substance was crystallized in ether and collected by filtration to give 240 mg of N-[6-(2-fluoroethoxy)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide.

reactant | fluoroethanol | 258 mg | FC(C)O | C2H5FO
reactant | sodium hydride | 194 mg | [H-].[Na+]
reactant | N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide | 400 mg | ClC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)OC1=C(C=CC=C1)OC | C23H18ClN5O4S
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[6-(2-fluoroethoxy)-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide | 240 mg | FCCOC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)OC1=C(C=CC=C1)OC | C25H22FN5O5S
